US08314087B2
1-(2-(7-Methoxyquinolin-4-yloxy)ethyl)-5-(4-methylthiophen-2-yl)pyrazin-2(1H)-one.
1-(2-hydroxyethyl)-5-(4-methylthiophen-2-yl)pyrazin-2(1H)-one (98.2 mg, 416 μmol), 4-chloro-7-methoxyquinoline (93.1 mg, 481 μmol), cesium carbonate (162 mg, 497 μmol), and palladium(II) acetate (23 mg, 102 μmol) were suspended in PhMe (2.8 mL) and racemic-2-(di-t-butylphosphino)-1,1′-binaphthyl (50 mg, 125 μmol) was added. The reaction was placed in a preheated oil bath (70° C.) and stirred under argon for 2.5 hours. The reaction was then cooled to room temperature and filtered through ˜0.5 inches of silica gel with 5:1 CH2Cl2/(2 N ammonia in MeOH). The filtrate was concentrated, and washed with Et2O and MeOH. The MeOH washings were combined with the solid, concentrated, and purified on HPLC (10%->95% MeCN/water with 0.1% TFA over 30 minutes) to afford the desired product (86.5 mg, 0.220 mmol, 53% yield). MS (ESI pos. ion) m/z (MH+): 394. Calc'd exact mass for C21H19N3O3S: 393. 1H NMR (400 MHz, CDCl3): 8.95 (d, J=7.0 Hz, 1H), 8.29 (s, 1H), 8.10 (d, J=9.0 Hz, 1H), 7.71 (d, J=3.0 Hz, 1H), 7.59 (s, 1H), 7.30 (dd, J=9 Hz, 3 Hz, 1H), 7.20 (s, 1H), 7.03 (d, J=7.0 Hz, 1H), 6.92 (s, 1H), 4.80 (t, J=5.0 Hz, 2H), 4.57 (t, J=5.0 Hz, 2H), 4.02 (s, H), 2.30 (s, 3H).

reactant | 1-(2-hydroxyethyl)-5-(4-methylthiophen-2-yl)pyrazin-2(1H)-one | 416 μmol, 98.2 mg | OCCN1C(C=NC(=C1)C=1SC=C(C1)C)=O | C11H12N2O2S
reactant | 4-chloro-7-methoxyquinoline | 481 μmol, 93.1 mg | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
reactant | cesium carbonate | 497 μmol, 162 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | racemic-2-(di-t-butylphosphino)-1,1′-binaphthyl | 125 μmol, 50 mg | C(C)(C)(C)P(C1=C(C2=CC=CC=C2C=C1)C1=CC=CC2=CC=CC=C12)C(C)(C)C | C28H31P
solvent | PhMe | 2.8 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 102 μmol, 23 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(2-(7-Methoxyquinolin-4-yloxy)ethyl)-5-(4-methylthiophen-2-yl)pyrazin-2(1H)-one | 0.220 mmol, 86.5 mg, 53% yield | COC1=CC=C2C(=CC=NC2=C1)OCCN1C(C=NC(=C1)C=1SC=C(C1)C)=O | C21H19N3O3S
